US04748122
The purified enzyme solution (10 μl) obtained above (3) was mixed with 25 μmoles of a substrate (Ca-25DKG or 5KF) and 3.0 ml of 0.01M TB (pH 7) containing 15 μmoles of NADPH and the mixture was allowed to react at 30° C. for 60 minutes. After the reaction, the reaction mixture was analyzed by paper chromatography (developing solvent; phenol:formic acid:water=75:4:25, chromogenic agent; AHF solution, prepared by dissolving 0.93 g of anilin and 1.66 g of phthalic acid in 100 ml of water-saturated n-butanol and heating at 105° C. for 2 minutes) and by gas chromatography (column; SE-52, carrier gas: Helium, sample; trimethylsilylated derivative). As the results of the analysis in both chromatographies, it was found that only 2KLG is produced from 25DKG and only L-sorbose is produced from 5KF. In Table 1, the results of quantitative determination of the products by gas chromatography are shown.

reactant | NADPH | 15 μmoles | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | anilin | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | phthalic acid | 1.66 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
solvent | water | 100 ml | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | L-sorbose | OCC(=O)[C@@H](O)[C@H](O)[C@@H](O)CO | C6H12O6
